US04273929
A suspension of 94.6 g. of (methoxymethyl)(triphenylphosphonium chloride in 1000 ml. of dry ether is treated with 33.0 g. of potassium tert.butylate. After stirring for 45 minutes, a solution of 31.4 g. of trans-4-n-propyloxycyclohexane carboxaldehyde in 200 ml. of ether is added dropwise. The mixture is stirred for a further 2.5 hours and then poured into 1.2 liters of ice-water. The organic phase is separated, washed neutral with water, dried over sodium sulfate and evaporated. The crude trans-2-(4-n-propyloxycyclohexyl)vinyl methyl ether obtained is distilled at 82°-85° C./0.6 mmHg in order to separate the residual triphenylphosphine.

reactant | triphenylphosphonium chloride | [Cl-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | trans-4-n-propyloxycyclohexane carboxaldehyde | C(CC)O[C@@H]1CC[C@H](CC1)C=O | C10H18O2
reactant | ether | CCOCC | C4H10O
product | trans-2-(4-n-propyloxycyclohexyl)vinyl methyl ether | COC=C[C@@H]1CC[C@H](CC1)OCCC | C12H22O2
